US04717724
6-[(2RS,4SR)-2-(2,4-Dichlorophenyl)-2-(1H-imidazol-1-ylmethyl)-1,3-dioxolan-4-ylmethyloxy]-2-(4-phenylbenzyl)-1,2,3,4-tetrahydroisoquinoline
0.26 g of sodium hydride (50% suspension in oil) is added to a solution of 0.75 g of 6-hydroxy-1,2,3,4-tetrahydroisoquinoline in 30 ml of dimethylformamide, and the mixture is stirred at 50° C. for 30 minutes. Then 2.04 g of (2RS,4SR)-2-(2,4-dichlorophenyl)-2-(1H-imidazol-1-ylmethyl)-1,3-dioxolan-4-ylmethyl methanesulfonate are introduced, and the mixture is stirred at 80° C. for 5 hours. It is allowed to cool, 1.00 g of finely powdered potassium carbonate and 1.00 g of 4-chloromethylbiphenyl are added, and the mixture is stirred at 60° C. for a further 5 hours. After cooling, the solvent is removed at the oil pump in a rotary evaporator, and the residue is taken up with a mixture of 50 ml of water and 50 ml of methylene chloride. The organic phase is washed twice more with water, dried over magnesium sulfate and evaporated in a rotary evaporator. To purify the crude product, it is chromatographed on silica gel using a mixture of ethyl acetate and methanol 19:1. 1.7 g of a viscous oil (57% of theory) which gradually crystallizes is obtained. Melting point 103°-105°.

reactant | sodium hydride | 0.26 g | [H-].[Na+]
reactant | 6-hydroxy-1,2,3,4-tetrahydroisoquinoline | 0.75 g | OC=1C=C2CCNCC2=CC1 | C9H11NO
reactant | (2RS,4SR)-2-(2,4-dichlorophenyl)-2-(1H-imidazol-1-ylmethyl)-1,3-dioxolan-4-ylmethyl methanesulfonate | 2.04 g | CS(=O)(=O)OCC1OC(OC1)(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl | C15H16Cl2N2O5S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloromethylbiphenyl | 1.00 g | ClCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11Cl
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6-[(2RS,4SR)-2-(2,4-Dichlorophenyl)-2-(1H-imidazol-1-ylmethyl)-1,3-dioxolan-4-ylmethyloxy]-2-(4-phenylbenzyl)-1,2,3,4-tetrahydroisoquinoline | ClC1=C(C=CC(=C1)Cl)C1(OCC(O1)COC=1C=C2CCN(CC2=CC1)CC1=CC=C(C=C1)C1=CC=CC=C1)CN1C=NC=C1 | C36H33Cl2N3O3
